US09102642B2
A mixture of 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (0.42 g, 1.19 mmol), 4-bromo-2-fluorophenol (0.27 g, 1.43 mmol), cesium carbonate (0.78 g, 2.38 mmol), copper(II) trifluoromethanesulfonate (0.02 g, 0.06 mmol) and ethyl acetate (0.004 g, 0.06 mmol) in dry toluene (10 ml) are heated to reflux for 21 hours. The mixture is cooled to room temperature and N,N-dimethylformamide (2 ml) is added. The mixture is partitioned between 2M aqueous hydrochloric acid (10 ml) and ethyl acetate (3×10 ml). The organic extracts are combined, dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated under reduced pressure. The residue is purified by preparative reverse phase HPLC to give 4-[4-(4-bromo-2-fluorophenoxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 1.19 mmol, 0.42 g | BrC1=CC(=C(C=C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)CC | C17H21BrO3
reactant | 4-bromo-2-fluorophenol | 1.43 mmol, 0.27 g | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | cesium carbonate | 2.38 mmol, 0.78 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 0.06 mmol, 0.004 g | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(II) trifluoromethanesulfonate | 0.06 mmol, 0.02 g | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-[4-(4-bromo-2-fluorophenoxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione | BrC1=CC(=C(OC2=CC(=C(C=C2)C2C(C(OC(C2=O)(C)C)(C)C)=O)CC)C=C1)F | C23H24BrFO4
